US04492692
A mixture of 1-bromo-3-(4-nitrophenyl)acetone and potassium phthalimide (7.2 g.) in toluene (100 ml.) was heated under reflux with stirring for 4 hours. The mixture was filtered, the filtrate evaporated. The residue was purified by chromatography on silica gel using CH2Cl2 as eluant to give 1-phthalimido-3-(4-nitrophenyl)acetone, m.p. 184°.

reactant | 1-bromo-3-(4-nitrophenyl)acetone | BrCC(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C9H8BrNO3
reactant | potassium phthalimide | 7.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phthalimido-3-(4-nitrophenyl)acetone | C1(C=2C(C(N1CC(=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O)=CC=CC2)=O | C17H12N2O5
